US07989644B2
15a) 9-Bromo-2,6-di-tert-butyl-anthracene
Bromine (3.02 g, 18.9 mmol) is added at 0° C. to a solution of 2,6-di-tert-butylanthracene (5.0 g, 17.2 mol) in carbontetrachloride (200 ml). The mixture is then stirred at 0° C. for 15 hours. After allowing to heat up to room temperature, half the amount of solvent is evaporated and the resulting mixture is poured into methanol. The precipitate is collected by filtration, recrystallized from n-hexane/methanol and the desired product is obtained as a white solid (1.13 g).

reactant | Bromine | 18.9 mmol, 3.02 g | BrBr | Br2
reactant | 2,6-di-tert-butylanthracene | 17.2 mol, 5.0 g | C(C)(C)(C)C1=CC2=CC3=CC=C(C=C3C=C2C=C1)C(C)(C)C | C22H26
solvent | carbontetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 9-Bromo-2,6-di-tert-butyl-anthracene | BrC=1C2=CC=C(C=C2C=C2C=CC(=CC12)C(C)(C)C)C(C)(C)C | C22H25Br
